US09085555B2
C. (3-Carbamoyl-5-methoxy-indol-1-yl)-acetic acid tert-butyl ester
To a solution of (3-carbamoyl-5-hydroxy-indol-1-yl)-acetic acid tert-butyl ester (50 mg, 0.172 mmol) in DMSO (1.7 mL) was added Cs2CO3 (336 mg, 1.03 mmol). The mixture was stirred at RT for 5 min, followed by addition of methyl iodide (0.048 mL, 0.774 mmol), and stirring was continued at RT for 3 days. The reaction mixture was partitioned between water and CH2Cl2, the layers were separated and the aqueous phase was extracted twice with CH2Cl2. The combined organics were washed twice with brine, dried (phase separator) and concentrated in vacuo to afford the title compound as a yellow solid: MS (LC/MS): 305 [M+H]+, 327 [M+Na]+, 609 [2M+H]+; tR (HPLC conditions c): 4.31 min. The material thus obtained was used in the next reaction step without further purification.

reactant | (3-carbamoyl-5-hydroxy-indol-1-yl)-acetic acid tert-butyl ester | 0.172 mmol, 50 mg | C(C)(C)(C)OC(CN1C=C(C2=CC(=CC=C12)O)C(N)=O)=O | C15H18N2O4
reactant | Cs2CO3 | 1.03 mmol, 336 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl iodide | 0.774 mmol, 0.048 mL | CI | CH3I
solvent | DMSO | 1.7 mL | CS(=O)C | C2H6OS
product | (3-Carbamoyl-5-methoxy-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=CC(=CC=C12)OC)C(N)=O)=O | C16H20N2O4
